US04338450
Preparation of N-Methyl-N-(N'-methyl-N'-formylaminosulfenyl)carbamoyl fluoride
To a solution of 9.0 g hydrogen fluoride in 100 ml toluene cooled to -50° C. was added 25.6 g methyl isocyanate. After stirring for 45 minutes and allowing the mixture to warm to -10° C., 56.4 g of N-methyl-N-formylaminosulfenyl chloride dissolved in 300 ml toluene was added. Triethylamine 45.4 g was added dropwise over a period of 0.5 hr while the temperature was maintained between 0° to 8° C. by external cooling. After stirring for 0.5 hr at ambient temperature, the reaction mixture was diluted with 200 ml ice water. The organic layer was separated, washed with water, dried and concentrated. Distillation of the residue yielded 22.4 g of product. b.p. 60°-62° C./0.2 mm.

reactant | hydrogen fluoride | 9.0 g | F | FH
reactant | methyl isocyanate | 25.6 g | CN=C=O | C2H3NO
reactant | N-methyl-N-formylaminosulfenyl chloride | 56.4 g | CN(SCl)C=O | C2H4ClNOS
reactant | Triethylamine | 45.4 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-Methyl-N-(N'-methyl-N'-formylaminosulfenyl)carbamoyl fluoride | 22.4 g | CN(C(=O)F)SN(C=O)C | C4H7FN2O2S
